US04707499
3-ethyldihydro-5-[[methyl(1-methylethyl) amino]methyl]-3-phenyl-2(3H)-furanone
A solution containing 1.3 g of 3-ethyldihydro-5-[[(1-methylethyl)amino]methyl]-3-phenyl-2(3H)-furanone, 1.3 g of 90% formic acid, and 1.1 g of 37% formaldehyde in 15 ml of ethanol was refluxed 2.5 hrs. The solution was cooled and then diluted with water and washed with diethyl ether. The aqueous layer was made basic with dilute sodium hydroxide and extracted with diethyl ether. The ether extract was washed with saturated sodium chloride solution, dried over anhydrous potassium carbonate, and concentrated in vacuo to an oil. The oil was dried at 40°/1 mm to yield 1.0 g of the title compound, having the following elemental analysis:

reactant | 3-ethyldihydro-5-[[(1-methylethyl)amino]methyl]-3-phenyl-2(3H)-furanone | 1.3 g | C(C)C1(C(OC(C1)CNC(C)C)=O)C1=CC=CC=C1 | C16H23NO2
reactant | formic acid | 1.3 g | C(=O)O | CH2O2
reactant | formaldehyde | 1.1 g | C=O | CH2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-ethyldihydro-5-[[methyl(1-methylethyl) amino]methyl]-3-phenyl-2(3H)-furanone | 1.0 g | C(C)C1(C(OC(C1)CN(C(C)C)C)=O)C1=CC=CC=C1 | C17H25NO2
